US04829099
Triethylene glycol (45 g, 0.3 mole) was treated with excess p-nitrobenzoyl chloride (116 g, 0.62 mole), following the general procedure outlined in Example 1, Part A. After treating with aqueous sodium bicarbonate to remove excess acid chloride, the product was recrystallized from ethyl acetate to give bis-(4-nitrobenzoyl)-triethylene glycol (115 g) as a pale yellow solid, m.p. 104°-105° C. The product was homogeneous by TLC.

reactant | Triethylene glycol | 0.3 mole, 45 g | C(COCCOCCO)O | C6H14O4
reactant | p-nitrobenzoyl chloride | 0.62 mole, 116 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | bis-(4-nitrobenzoyl)-triethylene glycol | 115 g | [N+](=O)([O-])C1=CC=C(C(=O)C(COCCOCCO)(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)O)C=C1 | C20H20N2O10
